US04014920
118 g (0.058 mol) of 3-allyl-4-hydroxy-cinnamic acid are dissolved in 580 ml of 2 N sodium hydroxide solution, 800 g of ice are added and 120 g (1.16 mols) of acetic anhydride are introduced dropwise over the course of 15 minutes at 0°-5°C, whilst stirring. The crystals which have precipitated are then separated off, suction-dried and recrystallised from ethyl acetate. 3-Allyl-4-acetoxy-cinnamic acid of melting point 143°-144°C is thus obtained.

reactant | 3-allyl-4-hydroxy-cinnamic acid | 0.058 mol, 118 g | C(C=C)C=1C=C(C=CC(=O)O)C=CC1O | C12H12O3
reactant | acetic anhydride | 1.16 mols, 120 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | sodium hydroxide | 2 N, 580 ml | [OH-].[Na+]
product | 3-Allyl-4-acetoxy-cinnamic acid | C(C=C)C=1C=C(C=CC(=O)O)C=CC1OC(C)=O | C14H14O4
